### PR TITLE
[Merged by Bors] - feat(Analysis/MeanInequalities): HM-GM inequality

### PR DESCRIPTION
**Pull request by luigi-massacci**
We derive the inequality between the harmonic and geometric mean as a consequence of AM-GM for positive real valued functions from a `Finset`. We state a weighted as well as the classical version. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/MeanInequalities.lean [hunk 1]
```diff
@@ -253,6 +267,58 @@ end Real
...
+    have s_pos : 0 < ∑ i in s, w i * (z i)⁻¹ :=
+      sum_pos (fun i hi => Real.mul_pos (hw i hi) (inv_pos.2 (hz i hi))) hs
+    norm_num at this
+    rw [← inv_le_inv s_pos p_pos, inv_eq_one_div] at this
+    apply le_trans this
+    have p_pos₂ : 0 < (∏ i in s, (z i) ^ w i)⁻¹ :=
+      inv_pos.2 (prod_pos fun i hi => rpow_pos_of_pos ((hz i hi)) _ )
+    rw [← inv_inv (∏ i in s, z i ^ w i), inv_le_inv p_pos p_pos₂, ← Finset.prod_inv_distrib]
+    gcongr
+    · refine fun i hi ↦ inv_nonneg.mpr (Real.rpow_nonneg (le_of_lt (hz i hi)) _)
```
Comment (pitmonticone) [inline Mathlib/Analysis/MeanInequalities.lean:295]:
```suggestion
    · exact fun i hi ↦ inv_nonneg.mpr (Real.rpow_nonneg (le_of_lt (hz i hi)) _)
```

File: Mathlib/Analysis/MeanInequalities.lean [hunk 2]
```diff
@@ -253,6 +267,58 @@ end Real
...
+namespace Real
+
+/-- **HM-GM inequality**: The harmonic mean is less than or equal to the geometric mean, weighted
+version for real-valued nonnegative functions. -/
+theorem harm_mean_le_geom_mean_weighted (w z : ι → ℝ) (hs : s.Nonempty) (hw : ∀ i ∈ s, 0 < w i)
+    (hw' : ∑ i in s, w i = 1) (hz : ∀ i ∈ s, 0 < z i) :
+    1/(∑ i in s, w i / z i) ≤ ∏ i in s, z i ^ w i  := by
+    have : ∏ i in s, (1 / z) i ^ w i ≤ ∑ i in s, w i * (1 / z) i :=
+      geom_mean_le_arith_mean_weighted s w (1/z) (fun i hi ↦ le_of_lt (hw i hi)) hw'
+                                                 (fun i hi ↦ one_div_nonneg.2 (le_of_lt (hz i hi)))
```
Comment (pitmonticone) [inline Mathlib/Analysis/MeanInequalities.lean:283]: Format: 

```suggestion
    have : ∏ i in s, (1 / z) i ^ w i ≤ ∑ i in s, w i * (1 / z) i :=
      geom_mean_le_arith_mean_weighted s w (1/z) (fun i hi ↦ le_of_lt (hw i hi)) hw'
      (fun i hi ↦ one_div_nonneg.2 (le_of_lt (hz i hi)))
```

File: Mathlib/Analysis/MeanInequalities.lean [hunk 3]
```diff
@@ -253,6 +267,58 @@ end Real
...
+    norm_num at this
+    rw [← inv_le_inv s_pos p_pos, inv_eq_one_div] at this
+    apply le_trans this
+    have p_pos₂ : 0 < (∏ i in s, (z i) ^ w i)⁻¹ :=
+      inv_pos.2 (prod_pos fun i hi => rpow_pos_of_pos ((hz i hi)) _ )
+    rw [← inv_inv (∏ i in s, z i ^ w i), inv_le_inv p_pos p_pos₂, ← Finset.prod_inv_distrib]
+    gcongr
+    · refine fun i hi ↦ inv_nonneg.mpr (Real.rpow_nonneg (le_of_lt (hz i hi)) _)
+    · rw [Real.inv_rpow]
+      apply (fun i hi ↦ le_of_lt (hz i hi)); assumption
```
Comment (pitmonticone) [inline Mathlib/Analysis/MeanInequalities.lean:297]: Just removed the parenthesis and turned it into a single line:

```suggestion
    · rw [Real.inv_rpow]; apply fun i hi ↦ le_of_lt (hz i hi); assumption
```

File: Mathlib/Analysis/MeanInequalities.lean [hunk 4]
```diff
@@ -253,6 +267,58 @@ end Real
...
 
+section HarmMeanLEGeomMean
+
+/-! ### HM-GM inequality -/
+
+namespace Real
+
+/-- **HM-GM inequality**: The harmonic mean is less than or equal to the geometric mean, weighted
+version for real-valued nonnegative functions. -/
+theorem harm_mean_le_geom_mean_weighted (w z : ι → ℝ) (hs : s.Nonempty) (hw : ∀ i ∈ s, 0 < w i)
```
Comment (pitmonticone) [inline Mathlib/Analysis/MeanInequalities.lean:278]: This should be implicit because `w` and `z` can be inferred from `hw` and `hz`. 

```suggestion
theorem harm_mean_le_geom_mean_weighted {w z : ι → ℝ} (hs : s.Nonempty) (hw : ∀ i ∈ s, 0 < w i)
```

File: Mathlib/Analysis/MeanInequalities.lean [hunk 5]
```diff
@@ -253,6 +267,58 @@ end Real
...
+    (hw' : ∑ i in s, w i = 1) (hz : ∀ i ∈ s, 0 < z i) :
+    1/(∑ i in s, w i / z i) ≤ ∏ i in s, z i ^ w i  := by
```
Comment (pitmonticone) [inline Mathlib/Analysis/MeanInequalities.lean:280]: The normal form is never `1/(something)`, but `(something)⁻¹`.

```suggestion
    (∑ i in s, w i / z i)⁻¹ ≤ ∏ i in s, z i ^ w i  := by
```

**Review by pitmonticone — DISMISSED** [review]

File: Mathlib/Analysis/MeanInequalities.lean [hunk 6]
```diff
@@ -253,6 +267,58 @@ end Real
...
+    gcongr
+    · refine fun i hi ↦ inv_nonneg.mpr (Real.rpow_nonneg (le_of_lt (hz i hi)) _)
+    · rw [Real.inv_rpow]
+      apply (fun i hi ↦ le_of_lt (hz i hi)); assumption
+
+
+/-- **HM-GM inequality**: The **harmonic mean is less than or equal to the geometric mean. --/
+theorem harm_mean_le_geom_mean {ι : Type*} (s : Finset ι) (hs : Finset.Nonempty s) (w : ι → ℝ)
+    (z : ι → ℝ) (hw : ∀ i ∈ s, 0 < w i) (hw' : 0 < ∑ i in s, w i) (hz : ∀ i ∈ s, 0 < z i) :
+    (∑ i in s, w i)/(∑ i in s, w i / z i) ≤ (∏ i in s, z i ^ w i) ^ (∑ i in s, w i)⁻¹ := by
```
Comment (pitmonticone) [inline Mathlib/Analysis/MeanInequalities.lean:303]: Same as above 

```suggestion
theorem harm_mean_le_geom_mean {ι : Type*} (s : Finset ι) {w : ι → ℝ}
    {z : ι → ℝ} (hs : Finset.Nonempty s) (hw : ∀ i ∈ s, 0 < w i) (hw' : 0 < ∑ i in s, w i) (hz : ∀ i ∈ s, 0 < z i) :
    (∑ i in s, w i)/(∑ i in s, w i / z i) ≤ (∏ i in s, z i ^ w i) ^ (∑ i in s, w i)⁻¹ := by
```

File: Mathlib/Analysis/MeanInequalities.lean [hunk 7]
```diff
@@ -38,6 +38,20 @@ a version for real-valued non-negative functions is in the `Real` namespace, and
...
 - `geom_mean_le_arith_mean4_weighted` : weighted version for four numbers.
 
+
+### HM-GM inequality:
+
+The inequality says that the harmonic mean of a tuple of positive numbers is less than or equal
+to their geometric mean. We prove the weighted version of this inequality: if $w$ and $z$
+are two positive vectors and $\sum_{i\in s} w_i=1$, then
+$$
+1/(\sum_{i\in s} w_i/z_i)  ≤ \prod_{i\in s} z_i^{w_i}
```
Comment (sgouezel) [inline Mathlib/Analysis/MeanInequalities.lean:48]:
```suggestion
1/(\sum_{i\in s} w_i/z_i) ≤ \prod_{i\in s} z_i^{w_i}
```

File: Mathlib/Analysis/MeanInequalities.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/Analysis/MeanInequalities.lean:303]: `hs` could even be `s.Nonempty`. Also, missing spaces around `/`.

File: Mathlib/Analysis/MeanInequalities.lean [hunk 8]
```diff
@@ -253,6 +267,58 @@ end Real
...
+    · rw [Real.inv_rpow]
+      apply (fun i hi ↦ le_of_lt (hz i hi)); assumption
+
+
+/-- **HM-GM inequality**: The **harmonic mean is less than or equal to the geometric mean. --/
+theorem harm_mean_le_geom_mean {ι : Type*} (s : Finset ι) (hs : Finset.Nonempty s) (w : ι → ℝ)
+    (z : ι → ℝ) (hw : ∀ i ∈ s, 0 < w i) (hw' : 0 < ∑ i in s, w i) (hz : ∀ i ∈ s, 0 < z i) :
+    (∑ i in s, w i)/(∑ i in s, w i / z i) ≤ (∏ i in s, z i ^ w i) ^ (∑ i in s, w i)⁻¹ := by
+  have := harm_mean_le_geom_mean_weighted s (fun i => (w i) / ∑ i in s, w i) z hs ?_ ?_ hz
+  simp at this
```
Comment (sgouezel) [inline Mathlib/Analysis/MeanInequalities.lean:305]: Since you are in the middle of the proof, you should squeeze the simp to improve the robustness, by doing `simp? at this` and using the suggested output.

Also, before this line, you have three goals, so you should have started right away with a focusing dot (not relevant if you have used `suffices`).

File: Mathlib/Analysis/MeanInequalities.lean [hunk 9]
```diff
@@ -253,6 +267,58 @@ end Real
...
+    · refine fun i hi ↦ inv_nonneg.mpr (Real.rpow_nonneg (le_of_lt (hz i hi)) _)
+    · rw [Real.inv_rpow]
+      apply (fun i hi ↦ le_of_lt (hz i hi)); assumption
+
+
+/-- **HM-GM inequality**: The **harmonic mean is less than or equal to the geometric mean. --/
+theorem harm_mean_le_geom_mean {ι : Type*} (s : Finset ι) (hs : Finset.Nonempty s) (w : ι → ℝ)
+    (z : ι → ℝ) (hw : ∀ i ∈ s, 0 < w i) (hw' : 0 < ∑ i in s, w i) (hz : ∀ i ∈ s, 0 < z i) :
+    (∑ i in s, w i)/(∑ i in s, w i / z i) ≤ (∏ i in s, z i ^ w i) ^ (∑ i in s, w i)⁻¹ := by
+  have := harm_mean_le_geom_mean_weighted s (fun i => (w i) / ∑ i in s, w i) z hs ?_ ?_ hz
```
Comment (sgouezel) [inline Mathlib/Analysis/MeanInequalities.lean:304]: The style with `have := ` with metavariables on the right hand side (creating new goals) is not always the most readable. Often, it's more readable to use `suffices`. Although here the thing you would have to write is quite long, so it's not clear. Do as you prefer! (but keeping readability in mind :-)

File: Mathlib/Analysis/MeanInequalities.lean [hunk 10]
```diff
@@ -253,6 +267,58 @@ end Real
...
+  set n := ∑ i in s, w i
+  · nth_rw 1 [div_eq_mul_inv, (show n = (n⁻¹)⁻¹ by norm_num), ← mul_inv, Finset.mul_sum _ _ n⁻¹]
+    simp_rw [inv_mul_eq_div n ((w _)/(z _)), div_right_comm _ _ n]
+    convert this
+    rw [← Real.finset_prod_rpow s _ (fun i hi ↦ Real.rpow_nonneg (le_of_lt <| hz i hi) _)]
+    refine Finset.prod_congr rfl (fun i hi => ?_)
+    rw [← Real.rpow_mul (le_of_lt <| hz i hi) (w _) n⁻¹, div_eq_mul_inv (w _) n]
+  · exact fun i hi ↦ div_pos (hw i hi) hw'
+  · simp_rw [div_eq_mul_inv (w _) (∑ i in s, w i), ← Finset.sum_mul _ _ (∑ i in s, w i)⁻¹]
+    rw [mul_inv_cancel (by apply ne_of_gt; assumption)]
```
Comment (sgouezel) [inline Mathlib/Analysis/MeanInequalities.lean:315]:
```suggestion
    exact mul_inv_cancel hw'.ne'
```

**Review by sgouezel — COMMENTED** [review]
This looks very good, thanks!

File: Mathlib/Analysis/MeanInequalities.lean (hunk 4 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/MeanInequalities.lean:278]: This is for consistency with all the other theorems in the file

**Comment by sgouezel** [comment]
bors r+
Thanks!
